US06699910B2
To a solution of 3-{3-[3-(2-ethoxycarbonyl-2-methyl-propyl)-benzoyl]-phenyl}-2,2-dimethyl-propionic acid ethyl ester (6.2 g, 14 mmol) in dichloromethane (100 mL) was added 1,3-propanedithiol (1.9 g, 17.5 mmol) and borontrifluoride etherate (0.52 mL) solution was stirred at room temperature overnight and 5% sodium hydroxide solution (17.5 mL) was added. The organic layer was separated, washed with water (50 mL), dried over sodium sulfate, and evaporated to afford 3-(3-{2-[3-(2-ethoxycarbonyl-2-methyl-propyl)-phenyl]-[1,3]dithian-2-yl}-phenyl)-2,2-dimethyl-propanoic acid ethyl ester (6.5 g, 86%) as an oil. 1H NMR (300 MHz, CDCl3): δ (ppm): 7.58-6.96 (m, 8H), 4.10 (q, J=7.2 Hz, 4H), 2.85 (s, 4H), 2.76 (t, J=5.6 Hz, 4H), 1.98 (m, 2H), 1.25-1.14 (m, 18H). 13C NMR (75 MHz, CDCl3): δ (ppm): 177.2, 142.2, 138.1, 131.1, 129.3, 127.8, 127.3, 60.4, 46.2, 43.5, 29.4, 24.9, 24.5, 14.1.

reactant | 3-{3-[3-(2-ethoxycarbonyl-2-methyl-propyl)-benzoyl]-phenyl}-2,2-dimethyl-propionic acid ethyl ester | 14 mmol, 6.2 g | C(C)OC(C(CC1=CC(=CC=C1)C(C1=CC(=CC=C1)CC(C)(C)C(=O)OCC)=O)(C)C)=O | C27H34O5
reactant | 1,3-propanedithiol | 17.5 mmol, 1.9 g | C(CCS)S | C3H8S2
reactant | borontrifluoride etherate | 0.52 mL | B(F)(F)F.CCOCC
reactant | sodium hydroxide | 17.5 mL | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-(3-{2-[3-(2-ethoxycarbonyl-2-methyl-propyl)-phenyl]-[1,3]dithian-2-yl}-phenyl)-2,2-dimethyl-propanoic acid ethyl ester | 6.5 g, 86% | C(C)OC(C(CC1=CC(=CC=C1)C1(SCCCS1)C1=CC(=CC=C1)CC(C)(C)C(=O)OCC)(C)C)=O | C30H40O4S2
